US07786142B2
Synthesis of 1-(9H-carbazol-4-yloxy)-3-[4-(3-trifluoromethyl phenylsulfonyl)piperazin-1-yl]propan-2-ol
To a solution of 1-(9H-carbazol-4-yloxy)-3-piperazin-1-ylpropan-2-ol (0.2 g, 0.614 mmol) in DMF (4 mL), was added DIPEA (0.05 mL, 0.301 mmol) followed by the drop-wise addition of 3-trifluoromethylbenzenesulfonyl chloride (0.098 g, 0.61 mmol) at room temperature and the reaction mixture was stirred for 3 hours. Subsequently the reaction mixture was diluted with ethyl acetate (30 mL), washed with water and brine solution. The organic layer was dried on anhydrous Na2SO4, concentrated, and purified by precipitating the compound from dichloromethane by adding hexane, to give the required compound as a pale yellow colored solid (0.102 g, 30% yield). 1H NMR (400 MHz, DMSO): δ 2.30-2.90 (m, 6H), 3.00-3.30 (m, 4H), 4.00-4.30 (m, 4H), 5.00 (s, 1H), 6.61 (d, 1H, J=8 Hz), 7.00-7.20 (m, 2H), 7.25-7.40 (m, 2H), 7.42 (d, 1H, J=8.0 Hz), 7.80-8.00 (m, 2H), 8.06 (d, 1H, J=8 Hz), 8.20-8.30 (m, 2H), 11.26 (d, 1H, J=12 Hz). MS m/z: 534.1 (M+1).

reactant | 1-(9H-carbazol-4-yloxy)-3-piperazin-1-ylpropan-2-ol | 0.614 mmol, 0.2 g | C1=CC=C(C=2C3=CC=CC=C3NC12)OCC(CN1CCNCC1)O | C19H23N3O2
reactant | DIPEA | 0.301 mmol, 0.05 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-trifluoromethylbenzenesulfonyl chloride | 0.61 mmol, 0.098 g | FC(C=1C=C(C=CC1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 1-(9H-carbazol-4-yloxy)-3-[4-(3-trifluoromethyl phenylsulfonyl)piperazin-1-yl]propan-2-ol | 0.102 g, 30% yield | C1=CC=C(C=2C3=CC=CC=C3NC12)OCC(CN1CCN(CC1)S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)O | C26H26F3N3O4S
